US05925624
(1S-trans)-[3-(Formyloxy)cyclopentyl]carbamic acid 1,1-dimethylethyl ester
Diethyl azodicarboxylate (0.164 ml, 1.23 mmol) was added dropwise to a stirred solution of (1S-cis)-(3-hydroxycyclopentyl)carbamic acid 1,1-dimethylethyl ester (0.124 g, 0.61 mmol), triphenylphosphine (0.323 g, 1.23 mmol) and formic acid (0.046 ml, 1.23 mmol) and the solution was stirred at room temperature for 2h. The solution was then concentrated and purified by column chromatography on flash silica eluting with 10-30% ethyl acetate in cyclohexane to give the title compound (0.07 g) as white needles from diisopropyl ether m.p.84-85° C., [α]D -12.7° (CHCl3 c=0.55%).

reactant | Diethyl azodicarboxylate | 1.23 mmol, 0.164 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (1S-cis)-(3-hydroxycyclopentyl)carbamic acid 1,1-dimethylethyl ester | 0.61 mmol, 0.124 g | CC(C)(C)OC(N[C@@H]1C[C@@H](CC1)O)=O | C10H19NO3
reactant | triphenylphosphine | 1.23 mmol, 0.323 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | formic acid | 1.23 mmol, 0.046 ml | C(=O)O | CH2O2
product | (1S-trans)-[3-(Formyloxy)cyclopentyl]carbamic acid 1,1-dimethylethyl ester | 0.07 g | CC(C)(C)OC(N[C@@H]1C[C@H](CC1)OC=O)=O | C11H19NO4
